US08729102B2
To a mixture of methyl 5-hydroxypyridine-2-carboxylate (5.30 g), tert-butyl [(1S)-2-hydroxy-1-methylethyl]carbamate (6.67 g), triphenylphosphine (12.71 g) and THF (50 mL) was added dropwise a toluene solution (1.9 M, 25.5 mL) of diisopropyl azodicarboxylate at room temperature, and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give a mixture (7.52 g) of methyl 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylate and impurity. A mixture of the obtained methyl 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylate (7.52 g, mixture with impurity), THF (70 mL), methanol (70 mL) and 1M sodium hydroxide (70 mL) was stirred at room temperature overnight. The reaction mixture was neutralized with 6M hydrochloric acid at 0° C., and concentrated under reduced pressure, and the residue was extracted with a mixed solvent of ethyl acetate/2-propanol (volume ratio 3/1). The obtained organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give a mixture (7.17 g) of 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylic acid and impurity. A mixture of the obtained 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylic acid (7.17 g, mixture with impurity), 4-aminobenzene-1,3-diol hydrochloride (3.91 g), HATU (9.20 g), N,N-diisopropylethylamine (8.34 mL) and DMF (70 mL) was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate as a mixture with impurity (14.1 g). To a solution of hexachloroethane (13.2 g) and triphenylphosphine (18.3 g) in acetonitrile (100 mL) was added triethylamine (24.4 mL) at room temperature, and the obtained mixture was stirred at room temperature for 10 min. A mixture of tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]pyridin-3-yl}oxy)-1-methylethyl]carbamate (14.1 g, mixture with impurity) obtained by the aforementioned method and acetonitrile (100 mL) was added thereto. The obtained mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-2-{([6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate as a mixture with impurity (17.5 g). A mixture of the obtained tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate (17.5 g, mixture with impurity), iodoethane (3.99 mL), potassium carbonate (6.90 g) and DMF (150 mL) was stirred at 60° C. for 5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a white powder (5.53 g).

reactant | methyl 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylate | 7.52 g | C(C)(C)(C)OC(=O)N[C@H](COC=1C=CC(=NC1)C(=O)OC)C | C15H22N2O5
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1M, 70 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methanol | 70 mL | CO | CH4O
product | 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)pyridine-2-carboxylic acid | 7.17 g | C(C)(C)(C)OC(=O)N[C@H](COC=1C=CC(=NC1)C(=O)O)C | C14H20N2O5
